US08247576B2
65B. {2-[4-Fluoro-phenyl]-2-[4-(1H-pyrazol-4-yl)-phenyl]-ethyl}-carbamic acid benzyl ester
[2-(4-Bromo-phenyl)-2-(4-fluoro-phenyl)-ethyl]-carbamic acid benzyl ester was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole following the procedure set out in Example 1 to give the title compound. LC/MS: (PS-A2) Rt 3.20 [M+H]+ 416.

reactant | [2-(4-Bromo-phenyl)-2-(4-fluoro-phenyl)-ethyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)Br)=O | C22H19BrFNO2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
product | {2-[4-Fluoro-phenyl]-2-[4-(1H-pyrazol-4-yl)-phenyl]-ethyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCC(C1=CC=C(C=C1)C=1C=NNC1)C1=CC=C(C=C1)F)=O | C25H22FN3O2
